US04587341
B. 2-Hydroxy-4-methyl-7-bromoquinoline
6.65 g (26.00 mM) of N-(3-bromophenyl)-3-oxobutyramide was heated in 30 mL of conc. sulfuric acid to 120° C. (oil bath temperature) for 1.5 h. The reaction mixture was then poured into ice, whereby precipitate was formed. This was filtered and washed repeatedly with water. After drying, it was recrystallised in 95% ethanol, providing 5.21 g (84%) of the product as a white solid: mp 275°-276° C.;

reactant | N-(3-bromophenyl)-3-oxobutyramide | 26.00 mM, 6.65 g | BrC=1C=C(C=CC1)NC(CC(C)=O)=O | C10H10BrNO2
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
product | 2-Hydroxy-4-methyl-7-bromoquinoline | 5.21 g, 84% | OC1=NC2=CC(=CC=C2C(=C1)C)Br | C10H8BrNO
